data/oMe_Silver.jsonl
{"reaction_id": "NR-238_1-c2ccc(N(=O)=O)cc2_2-c2ccc(C)cc2_3-CC_4-c2ccccc2","level": "medium","name": "Steglich Esterification","reactants_smiles": ["c2ccc(N(=O)=O)cc2C(=O)O","CCN=C=Nc2ccccc2","c2ccc(C)cc2O","CN(C)c1ccncc1"],"products_smiles": ["c2ccc(C)cc2OC(=O)c2ccc(N(=O)=O)cc2"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c2ccc(N(=O)=O)cc2C(=O)OC(=[NH+]CC)Nc2ccccc2","step_weight": 0,"rationale": "The carboxylate oxygen attacks the electrophilic carbon of DCC due to its strong polarization by adjacent nitrogens, forming a reactive O-acylisourea intermediate stabilized by resonance."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "CN(C)c1cc[n+](cc1)C(=O)c2ccc(N(=O)=O)cc2","step_weight": 0,"rationale": "DMAP, a nucleophilic catalyst with an electron-rich pyridine nitrogen, displaces the isourea group via nucleophilic substitution, forming a more electrophilic N-acylpyridinium ion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CN(C)c1cc[n+](cc1)C([O-])(Oc2ccc(C)cc2)c2ccc(N(=O)=O)cc2","step_weight": 0,"rationale": "The alcohol oxygen attacks the highly activated acyl carbon of the N-acylpyridinium ion, favored by the strong electron-withdrawing effect of the pyridinium group."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c2ccc(C)cc2OC(=O)c2ccc(N(=O)=O)cc2","step_weight": 0,"rationale": "Collapse of the tetrahedral intermediate expels DMAP as a good leaving group, driven by restoration of carbonyl conjugation, yielding the ester product."}],"description": "In the Steglich esterification, DCC activates the carboxylic acid to form an O-acylisourea intermediate, which is further activated by DMAP to an N-acylpyridinium species. This highly electrophilic intermediate undergoes nucleophilic attack by the alcohol, followed by elimination to yield the ester under mild conditions."}
